US07279469B2
N3-Benzo[1,3]dioxol-5-yl-1-pyrimidin-4-yl-1H-[1,2,4]triazole-3,5-diamine N3-Benzo[1,3]dioxol-5-yl-1-(6-chloro-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine, (40 mg, 0.12 mmol) was stirred with 10% Pd-C in 1 mL ethanol under 1 atm hydrogen for 18 h. The catalyst was removed by filtration and the solvent evaporated. The crude product was purified by preparative HPLC affording 11 mg N3-Benzo[1,3]dioxol-5-yl-1-pyrimidin-4-yl-1H-[1,2,4]triazole-3,5-diamine as the TFA salt.

reactant | N3-Benzo[1,3]dioxol-5-yl-1-pyrimidin-4-yl-1H-[1,2,4]triazole-3,5-diamine N3-Benzo[1,3]dioxol-5-yl-1-(6-chloro-pyrimidin-4-yl)-1H-[1,2,4]triazole-3,5-diamine | 0.12 mmol, 40 mg | O1COC2=C1C=CC(=C2)NC2=NN(C(=N2)N)C2=NC=NC(=C2)Cl.O2COC1=C2C=CC(=C1)NC1=NN(C(=N1)N)C1=NC=NC=C1
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | Pd-C | [Pd] | Pd
product | N3-Benzo[1,3]dioxol-5-yl-1-pyrimidin-4-yl-1H-[1,2,4]triazole-3,5-diamine | 11 mg | O1COC2=C1C=CC(=C2)NC2=NN(C(=N2)N)C2=NC=NC=C2 | C13H11N7O2
